US08975256B2
8-Benzoyloxymethyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Compound No. 1-1)
8-Hydroxymethyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one (Reference Compound No. 3-1, 54.2 mg, 0.17 mmol) was dissolved in tetrahydrofuran (1.5 mL) and triethylamine (73.0 μL, 0.52 mmol) and benzoyl chloride (30.0 μL, 0.26 mmol) were added thereto successively. The reaction mixture was stirred at room temperature for 24 hours. Ethyl acetate (30 mL) and water (30 mL) were added to the reaction mixture and partitioned. The organic layer was washed with water (30 mL) and saturated brine (30 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was filtered with ethyl acetate to give the titled compound (54.1 mg) as a colorless solid. (Yield 76%)

reactant | 8-Hydroxymethyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 0.17 mmol, 54.2 mg | OCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=CC=C1)OC | C18H20N2O3
reactant | triethylamine | 0.52 mmol, 73.0 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.26 mmol, 30.0 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 8-Benzoyloxymethyl-7-(2-methoxyphenyl)-3,3-dimethyl-3,4-dihydro-1H-quinoxalin-2-one | 54.1 mg, Yield 76% | C(C1=CC=CC=C1)(=O)OCC=1C(=CC=C2NC(C(NC12)=O)(C)C)C1=C(C=CC=C1)OC | C25H24N2O4
